US04851526
1-(4-Chlorophenylacetyl)-4-(hydroxymethyl)piperidine
To a solution of 5.76 g (0.05 mol) of 4-piperidinemethanol and 4.75 g (0.06 mol) of pyridine in 50 mL of methylene chloride cooled to 0° add dropwise a solution of 10.4 g (0.055 mol) of 4-chlorobenzeneacetyl chloride in 25 mL of methylene chloride. When the addition is complete stir the reaction overnight at room temperature. After this time add 25 mL of 2N hydrochloric acid. Separate the layers and wash the methylene chloride layer with two 50 mL portions of saturated sodium bicarbonate solution and 25 mL of saturated sodium chloride solution then dry the methylene chloride layer over anhydrous sodium sulfate. Filter the drying agent and remove the solvent in vacuo to obtain the title compound.

reactant | 4-piperidinemethanol | 0.05 mol, 5.76 g | N1CCC(CC1)CO | C6H13NO
reactant | pyridine | 0.06 mol, 4.75 g | N1=CC=CC=C1 | C5H5N
reactant | 4-chlorobenzeneacetyl chloride | 0.055 mol, 10.4 g | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
reactant | hydrochloric acid | 2N, 25 mL | Cl | ClH
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Chlorophenylacetyl)-4-(hydroxymethyl)piperidine | ClC1=CC=C(C=C1)CC(=O)N1CCC(CC1)CO | C14H18ClNO2
